US07781428B2
2-(4-cyanophenyl)-3-(4-fluorophenyl)-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid
The title compound was prepared from methyl 3-(4-fluorobenzylidene)-4-oxochroman-7-carboxylate; Preparation 30 (155 mg, 0.50 mmol) and 4-hydrazinylbenzonitrile hydrochloride (Aldrich) (127 mg, 0.75 mmol) according to Method B and Method C. The crude product was purified by reverse-phase HPLC (acetonitrile/water/0.05% trifluoroacetic acid) to give 2-(4-cyanophenyl)-3-(4-fluorophenyl)-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid (52 mg, 0.13, 25% yield). The title compound was largely present as (±)-(3SR,3aSR)-2-(4-cyanophenyl)-3-(4-fluorophenyl)-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.17 (dd, J=12.89, 10.47 Hz, 1H), 4.19-4.32 (m, 1H), 4.39 (dd, J=10.47, 5.91 Hz, 1H), 5.97 (d, J=11.55 Hz, 1H), 6.93-7.27 (m, 6H), 7.40 (d, J=1.61 Hz, 1H), 7.57-7.63 (m, 3H), 7.99 (d, J=8.06 Hz, 1H), 13.18 (s, 1H). ES-MS m/z 414 (M+H).

reactant | methyl 3-(4-fluorobenzylidene)-4-oxochroman-7-carboxylate | FC1=CC=C(C=C2COC3=CC(=CC=C3C2=O)C(=O)OC)C=C1 | C18H13FO4
reactant | 4-hydrazinylbenzonitrile hydrochloride | 0.75 mmol, 127 mg | Cl.N(N)C1=CC=C(C#N)C=C1
product | 2-(4-cyanophenyl)-3-(4-fluorophenyl)-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid | 52 mg, 25% yield | C(#N)C1=CC=C(C=C1)N1N=C2C(C1C1=CC=C(C=C1)F)COC=1C=C(C=CC12)C(=O)O | C24H16FN3O3
